US06114310
A solution of Boc-homophenylalanine (136 mg, 0.49 mmol), diisopropylethylamine (169 μl mg, 0.97 mmol), and tetrahydrofuran (3 ml) was treated with PyBrop (248 mg, 0.63 mmol) at 0° C. (2-Cyanoethyl)-3-phenylpropylamine (109 mg, 0.58 mmol) in tetrahydro-furan (2 ml) was added dropwise and the reaction mixture was stirred overnight. The solid was filtered and rinsed with ethyl acetate, and the filtrate was concentrated and purified by chromatography to give Boc-homophenylalanine (2-cyanoethyl)-3-phenyl-propylamide. A mixture of above product (200 mg), 10% palladium-on-carbon (20 mg), and methanol (40 ml) was hydrogenated on a Parr hydrogenator (40 psi) overnight. The catalyst was removed by filtration through Celite and the filtrate was concentrated in vacuo. The residue was then treated with trifluoroacetic acid for 30 min. The solvent was removed in vacuo and product was purified by reverse phase HPLC to give white solid: 1H NMR (400 MHz, D2O) δ 1.8-2.1 (m, 6 H), 2.5-2.8 (m, 4 H), 3.0-3.3 (m, 4 H), 3.3-3.7 (m, 2 H), 4.0-4.1 (m, 1 H), and 7.3-7.5 (m, 10 H).

reactant | Boc-homophenylalanine | 0.49 mmol, 136 mg | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | diisopropylethylamine | 0.97 mmol, 169 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBrop | 0.63 mmol, 248 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | (2-Cyanoethyl)-3-phenylpropylamine | 0.58 mmol, 109 mg | C(#N)CCNCCCC1=CC=CC=C1 | C12H16N2
solvent | tetrahydro-furan | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Boc-homophenylalanine (2-cyanoethyl)-3-phenyl-propylamide | C(#N)CCN(C([C@@H](NC(=O)OC(C)(C)C)CCC1=CC=CC=C1)=O)CCCC1=CC=CC=C1 | C27H35N3O3
